US04664852
An amount of 100 g of (3R)-4-chloro-3-hydroxybutyrylamide of L-tyrosine methylester is submitted to methanolysis under the same operating conditions as reported in Example 2. An amount is obtained of 20 g (70%) of (3R)-4-chloro-3-hydroxybutyric acid methylester with [α]D20 =-23° (c=1.5 in CHCL3). (3R)-4-Chloro-3-hydroxybutyric acid methylester is treated with trimethylamine and L-carnitine is obtained (yield 32%).

reactant | (3R)-4-Chloro-3-hydroxybutyric acid methylester | COC(C[C@H](CCl)O)=O | C5H9ClO3
reactant | trimethylamine | CN(C)C | C3H9N
product | L-carnitine | yield 32% | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
